US08067408B2
1,1-Dimethylethyl {[5-bromo-2-(methyloxy)phenyl]methyl}carbamate
NaBH4 (2.9 g, 75.5 mmol) was cautiously added in several portions to a solution of NiCl2 (2.6 g, 19.8 mmol), Boc2O (8.2 g, 37.7 mmol) and 5-bromo-2-(methyloxy)benzonitrile (4.0 g, 18.9 mmol) in dry EtOH (70 mL) at 0° C. Once the reaction had subsided, the mixture was left to stir at room temperature for 3 h. Ethanol was removed under reduced pressure and the residue was dissolved in EtOAc and saturated solution of NaHCO3, then filtered and repeatedly washed with EtOAc. The combined organic phases were dried using Na2SO4. The crude product was purified by flash column chromatography (PE/EA=20:1) to give 1.6 g of the product, 1,1-dimethylethyl {[5-bromo-2-(methyloxy)phenyl]methyl}-carbamate. (Yield: 27%). 1H NMR (400 MHz, CDCl3): δ 7.36-7.33 (m, 2 H), 6.74 (d, J=8.8 Hz, 1 H), 4.97 (br, 1 H), 4.27 (d, J=4.8 Hz, 1 H), 3.82 (s, 3 H), 1.45 (s, 9 H); 13C NMR (400 MHz, CDCl3): δ 156.5, 155.8, 131.7, 131.1, 129.3, 111.8, 79.5, 55.5, 39.9, 26.4. HPLC: retention time: 6.592 min; purity: 97.9%.

reactant | NaBH4 | 75.5 mmol, 2.9 g | [BH4-].[Na+]
reactant | Boc2O | 37.7 mmol, 8.2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-2-(methyloxy)benzonitrile | 18.9 mmol, 4.0 g | BrC=1C=CC(=C(C#N)C1)OC | C8H6BrNO
solvent | EtOH | 70 mL | CCO | C2H6O
catalyst | NiCl2 | 19.8 mmol, 2.6 g | Cl[Ni]Cl
product | 1,1-Dimethylethyl {[5-bromo-2-(methyloxy)phenyl]methyl}carbamate | 1.6 g, Yield: 27% | BrC=1C=CC(=C(C1)CNC(OC(C)(C)C)=O)OC | C13H18BrNO3
